US06316444B1
Step C: 2-[1-(4-(Tert-butyloxycarbonyl)-piperazin-2-yl)-ethylamino]-4-(benzimidazol-1-yl)-pyrimidine
A solution of 2-[1-(1-(benzyloxycarbonyl)-4-(tert-butyloxycarbonyl)-piperazin-2-yl)-ethylamino]-4-(benzimidazol-1-yl)-5-bromopyrimidine (83 mg) in 1 mL of iPrOH was stirred over Pd(OH)2/C (75 mg) under an H2 atmosphere (balloon) for 2 days, then filtered through Celite®, washing liberally with MeOH, and concentrated. The residue was dissolved in 10 mL of 0.2 N HCl and washed with 2×5 mL of CH2Cl2. The aqueous phase was basified (pH>1 1) with 1N NaOH and extracted with 4×10 mL of EtOAc. The combined organics were dried over Na2SO4 and concentrated, and the residue was purified by preparative thin-layer chromatography, eluting with 9:1 CH2Cl2—MeOH to provide 17 mg of the title compound. Mass spectrum (ESI) 368.3 (M−tBu).

reactant | 2-[1-(1-(benzyloxycarbonyl)-4-(tert-butyloxycarbonyl)-piperazin-2-yl)-ethylamino]-4-(benzimidazol-1-yl)-5-bromopyrimidine | 83 mg | C(C1=CC=CC=C1)OC(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)C(C)NC1=NC=C(C(=N1)N1C=NC2=C1C=CC=C2)Br | C30H34BrN7O4
solvent | iPrOH | 1 mL | CC(C)O | C3H8O
catalyst | Pd(OH)2/C | 75 mg | [OH-].[OH-].[Pd+2]
product | 2-[1-(4-(Tert-butyloxycarbonyl)-piperazin-2-yl)-ethylamino]-4-(benzimidazol-1-yl)-pyrimidine | 17 mg | C(C)(C)(C)OC(=O)N1CC(NCC1)C(C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC=C2 | C22H29N7O2
